Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I have been feeling really depressed over the past 2 weeks"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ yo F w/ history of depression, no prior
psychiatric hospitalizations, 1 reported SA via overdose by 
pills
at age ___, ___ with active suicidal ideation with
plan and steps taken to enact plan by purchasing straight razors
to cut veins in shower.  

Per Dr. ___ evaluation on ___:

"Ms. ___ endorses feelings of guilt, poor motivation, feelings
of worthlessness, hopelessness, poor concentration and intrusive
suicidal thoughts and ___ in self cutting 
behaviors.Ms.
___ reports that her friend encouraged her to go to the
counseling center at ___ one week ago where she saw ___. Patient had an appointment on ___ where she
reported increasing suicidal thoughts, feelings of 
worthlessness,
and reported active suicidal plan. Per patient on ___
patient reports she was at a tutoring meeting when they were
talking about self harm and mandatory reporting and issues were
raised regarding trust. A counselor stated that it is better to
err on the side of safety because they "can't feel betrayed if
their not alive." This statement resonated with the patient and
led her become increasingly preoccupied with thoughts of ending
her life. As a result, she went directly to a hardware store to
buy sharp razors with the thought that it would be easier to cut
her wrists and arms vertically along the veins. She also bought 
a
cookie sheet because she was concerned that someone at the
___ store might be suspicious of her purchase. She had 
plans
to return home, go through the back door of her apartment and 
run
the shower upstairs so that no one would hear her if she 
screamed
or cried when she cut herself and planned on bleeding out in the
shower. She remembered the cookie sheet and went through the
front door to drop it off in the kitchen because her roommates
really need a cookie sheet (they were baking with frying pans)
and ran into her roommate whom she spoke with. This conversation
calmed her down and reoriented her making her feel less 
compelled
to end her life. Following the counseling appointment on ___
patient said that if she continued to feel unsafe she would go 
to
the hospital but wanted to go to work and school first. She went
to work and did some school work and then her friends brought 
her
to the hospital.

Patient continues to endorse active suicidal ideation with
ongoing intent and desire to die. She reports that she has 
missed
more than 6 classes, has been engaging in more substance use 
than
normal including drinking ___ beers daily x5 days, smoking
marijuana (not normal for her), and has been writing more in her
journal. The writings have been involving the "physical space"
she is currently in and how she has this strange feeling that no
one in her house likes her. She acknowledges that this is
congruent with how her friends act toward her and states that 
her
friends are very much concerned about her. She is not sure why
she is "making these things up" but acknowledges that the
thoughts are intrusive and frequent.  

Ms. ___ also acknowledges two weeks of erratic sleep and 
eating
habits including not being able to fall asleep, staying awake 
for
several days and then "crashing" and sleeping for long hours. 
She
acknowledges some increased energy lately and hypersexual
behavior including sleeping with one of her roommates and
multiple partners on mobile dating apps. Patient states that she
has felt rather "out of control" and not herself recently. She
reports increased goal directed behaviors including writing in
journal, writing a play, and baking/cooking.

She cannot identify any precipitants to this event but
acknowledges that she started seeing her old therapist again 
over
the summer while home in ___. She states that they spoke
mostly about her ___ who she had a brief rekindled
relationship with over the summer. She denies any of these
symptoms over the summer. She acknowledges one episode of sexual
assault over the summer when she was extremely intoxicated and
her ___ was sober. Despite this she continued seeing 
her
___ throughout the summer.

Patient has a history of high functioning while in ___, and
reports excelling in classes and no contact with behavioral
health previous to this since coming to ___ in ___. While in
High school she saw a therapist and psychiatrist was diagnosed 
w/
GAD and MDD and was on Wellbutrin but this was tapered and
discontinued prior to starting school at ___ in ___.  
COLLATERAL
-Mother ___ 
booked a flight to come out tomorrow, because she was telling me
she was struggling and she was looking to go to outpatient or
inpatient programs. We have been on the phone with insurance
trying to get her into a program. Yesterday I texted her several
times and she knows shes coming. Yesterday she didn't respond to
any of my texts. She has struggled with mental health for most 
of
her life. When she moved to ___ she stopped seeing a 
therapist
and taking meds. She was doing great making straight A's. This 
is
out of the blue.

-___ counselor (___)
One and a half sessions. Brought in by a friend. ___,
impacting her day to day functioning. Not eating, not getting up
and showering. Was able to get up for the stuff that was
mandatory, did not miss the mandatory meetings. SI was pretty
passive and well what if I do this. Came in yesterday, suicidal
thoughts have gotten a lot worse. Told counselor that she went
out and bought razor blades. Can't think clearly when these
thoughts come up. She is very committed to her work at ___.
Missed a lot of classes. Adjusting to this semester. Friend
thought part of this was the end of a relationship over the
weekend. Spoke with patient about plan to return to classes.
Patient will meet with counseling center prior to returning to
classes. Therapist says patient can take semester medical leave
or they can help her continue with classes following return."

On interview today, patient described having worsening 
depressive
symptoms over the past 2 weeks with increasingly intrusive
suicidal thoughts. She states that she has had chronic passive
suicidal thoughts that are usually fleeting over the past ___
years, but she noted a distinct change in that these thoughts
have become active and egosyntonic. She expressed regret for not
having ended her life and has been having thoughts of being a
"coward" for not being able to carry out her plan. She stated
that she additionally has been having frequent urges to cut
herself, and in the past 3 days has been using her shaving 
razors
to cut into her forearms. She described that she has "never felt
so out of control in [her] life" as she does currently. 

Patient additionally expressed having some paranoid thoughts
about what others are thinking of her both in class and among 
her
group her friends. She described a situation last week during
which there was a conversation among the tutors in her group
about what to do with a student who is suicidal, and she felt
that the group was talking about her whereas in reality it was 
to
discuss appropriate protocols for tutors. She feels others are
paying more attention to her than usual, are hypercritical of
her, and is worried that people don't like her or are trying to
manipulate her. She denied experiencing any auditory or visual
hallucinations however. Patient moreover expressed distress at
her hypersexual behavior over the past 2 weeks. She stated that
she has been using dating apps to engage in casual sex with
different people, feels that she "wants someone to care for
[her]" but that she "didn't even feel like [she] was there or
present". Ms. ___ was very tearful throughout the interview. 

Patient expressed that her sleep has been very irregular over 
the
past few weeks, and has been experiencing some sleep onset
related insomnia givne her irregular sleep schedule. She
additionally expressed a decrease in appetite over the past 2
weeks, where she has been avoiding making full meals and noted
eating at very irregular times. While in the hospital, however,
she expressed that she has noted an improvement in her appetite. 

Overall, patient appears to be very anxious about being in a
hospital setting, and is worried that her inpatient
hospitalization will preclude her from finishing her semester.
She additionally feels both regret and anger towards herself for
not having carried out her plan to commit suicide using the
razors, and appeared to be very deeply distressed by this. 

=================
 REVIEW OF SYSTEMS:
 ==================
  PSYCHIATRIC
 -Positive per HPI
+sleep walking
 -Denies the following:
thought broadcasting/insertion, hallucinations, grandiosity, 
increase in ___ activity, referential thinking 

 MEDICAL
 -Pertinent Positives: + abrasions and superficial lacerations
over forearms, Patient complaining of R ankle pain after 
recently
tripping prior to arrival to ED. Patient states she is able to
walk but is experiencing pain over the lateral malleolus. 
 -Denies:
fever, HA, visual changes, chest pain, SOB, nausea, vomiting,
constipation, diarrhea,  joint pain, dysuria

 
Past Medical History:
=========================
 PAST PSYCHIATRIC HISTORY:
 =========================
 - Past diagnoses: GAD and Depression
 - Hospitalizations: none
 - Psychiatrist & Therapist:
     ___ (2 appts at ___)
     previously in ___
     Dr. ___ and ___
     ___ (new private practice)
 - Medication and ECT trials (reason for d/c if known):
     Prozac 
     Wellbutrin
 - ___ attempts:
     1 previous attempt: overdose via Ibuprofen (handful of
pills) no hospitalizations
 - Trauma:
     sexual assault over ___ hpi
=====================
 PAST MEDICAL HISTORY:
 =====================
denies
==========
 ALLERGIES:
 ==========
 ----------
Allergies  
------------
Patient recorded as having no known allergies to drugs           

 
Social History:
Substance Abuse Hx
 - EtOH: ___ drinks (mixed drinks, beer, wine) per day for last 
5
days, denies vomiting,
blackouts. Last drink was ___ night. 
 - Tobacco: denies
 - Cannabis: recent use in last month, denies regular use
 - Illicits: denies

Forensic Hx
 - Arrests: denies
 - Convictions and jail terms: denies
 - Current status (pending charges, probation, parole): denies 
 - Access to guns: denies

Social Hx: ___
Family History:
Sister w/ ___ vs. Bipolar Depression, 2 hospitalizations; 1 
SA w/ Knife
Father w/ ___
Both sister and father previously on wellbutrin
 
Physical Exam:
ON ADMISSION:

Vitals: ___ 1759 Temp: 98.4 PO BP: 132/85 HR: 98 O2 sat: 
99%

 GENERAL
 -General: Awake, cooperative, NAD.
 -HEENT: NC/AT. No scleral icterus noted. 
 -Neck: Supple. No nuchal rigidity. 
 -Cardiac: Well perfused. Regular rate and rhythm, normal S1 and
S2 with on murmurs, rubs, or gallops.  
 -Pulmonary: Breathing comfortably on room air. Lungs clear to
auscultation bilaterally. 
 -Extremities: No cyanosis, clubbing, or edema bilaterally. Pain
on inversion and eversion over lateral malleolus of RLE. 
 -Skin: superficial cuts at antecubital fossa of left and right
forearm. Tattoo noted on left shoulder. 

 NEUROLOGICAL  
 - Station and Gait: 
      - Normal station and gait. 
 - Strength: 
      - normal bulk; Strength ___ in upper and lower 
extremities.

 - Abnormal Movements: 
      - no tics, tremors, evidence of EPS
 - Cranial Nerves
     - nasolabial folds symmetric, palate elevates, PERRLA, 
EOMI,
no facial assymetry. Tongue midline. 

 COGNITION 
 - Wakefulness/alertness: 
      - awake and alert
 - Attention: 
      - WORLD with 0 errors
 - Orientation: 
      - ___, 
      - ___
 - Executive function ___ go, Luria, trails, FAS): 
      - Test of ideomotor apraxia 
      intact ability to "brush teeth and comb hair"      
 - Memory: 
      - ___ recall 
 - Fund of knowledge: 
      - consistent with education: "Trump, Obama, ___
 - Calculations: deferred
 - Abstraction: 
      - Grass is greener on the other side = "the other person's
situation looks better but this is not always true" 
 - Visuospatial: deferred
 - Language: 
      - Native ___ speaker, no paraphasic errors. 

MENTAL STATUS
 - Appearance/Behavior: Patient appearing stated age, in 
hospital
gown, with stack of books adjacent to seat. Patient has
superficial cuts on R and L antecubital fossa and forearm, large
tattoo noted on L shoulder. 
 - Attitude: 
      - cooperative, engaged, friendly
 - Mood: 
      - "depressed"
 - Affect: 
      - ___, tearful at times, dysphoric though
reactive. 
 - Speech: 
      - normal rate, volume, and tone
 - Thought process: 
      - linear, goal directed. 
 - Thought Content:
      - Safety: denies HI, +SI with intent and plan    
      - Delusions: Evidence of paranoia regarding worry that
others are always judging her or are trying to manipulate her.  
      - Obsessions/Compulsions: no evidence based on current
encounter
      - Hallucinations: denies AVH, does not appear internally
preoccupied. 
 - Insight: 
      - limited
 - Judgment: 
      - poor

ON DISCHARGE:
Mental Status Exam:
Appearance: ___, taking showers 
facial expression: relaxed
build: overweight
Behavior: engaging, cooperative
Eye contact: direct
psychomotor: no abnormal involuntary movements, gait - normal,
Speech: normal rate, volume and tone
Mood/affect "OK", stable, brighter
thought Process/content: reality oriented, goal directed, 
denies SI/HI, denies AH/VH/delusions
Intellectual Functioning: better concentration
Oriented: x4
Memory: Grossly intact 
insight: Fair
Judgment: Fair

 
Pertinent Results:
___ 01:53AM BLOOD ___ 
___ Plt ___
___ 01:53AM BLOOD ___ 
___ Im ___ 
___
___ 01:53AM BLOOD Plt ___
___ 09:03PM BLOOD ___ 
___
___ 01:53AM BLOOD ___ 
___
___ 09:03PM BLOOD ___
___ 09:03PM BLOOD ___
___ 09:03PM BLOOD ___
___ 09:03PM BLOOD ___
___:03PM BLOOD ___
___ 09:03PM BLOOD HCG-<5
___ 01:53AM BLOOD ___ 
___
___ 01:25PM URINE ___ 
___
___ 01:25PM URINE ___ 
___
___ 01:25PM URINE ___ 
___
 
Brief Hospital Course:
1. LEGAL & SAFETY: 
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. She was also placed on q15 minute 
checks and restricted sharps status on admission and remained on 
that level of observation throughout while being unit 
restricted. She did not require physical or chemical restraints 
during his hospitalization.  

2. PSYCHIATRIC:
On presentation, patient endorsed active suicidal ideation with 
plan to cut herself with a razor, and feels like "a coward" with 
immense regret for not having ended her life earlier this week 
when she bought the straight razors from a hardware store. 
Patient described her mood as "depressed" and appeared to be 
tearful and dysphoric though reactive. Also noted to have 
superficial cuts on R and L antecubital fossa and forearm. 
Patient additionally expressed symptoms concerning for paranoia 
and suspiciousness, with thoughts that others are hypercritical 
of her, always judging her, talking about her (even with 
professors during meetings addressing the whole class), with 
worry that others are trying to manipulate her. Patient further 
endorsed feelings of worthlessness, guilt, hopelessness, poor 
energy, no motivation, sadness, anhedonia, irritability 
("fluctuating moods"), decreased sleep, intrusive negative 
thoughts. 

Diagnostically, patient's presentation was consistent with MDD 
recurrent/severe with no psychotic features, PTSD, and 
Borderline personality traits. She was started on Citalopram 10 
mg PO/NG DAILY for depressive symptoms, which initially resulted 
in some nausea, and once nausea resolved, increased to 
Citalopram 20 mg daily. Patient tolerated the increased dose 
without further nausea or side effects. Patient also started on 
Lamotrigine 25 mg PO/NG QHS for improved mood stability, which 
was increased to 50 mg QHS. Patient was compliant with 
medications during stay and found medications to be helpful for 
her mood.

At time of discharge, patient's sleep, appetite, concentration, 
energy, hopelessness, and depressive symptoms overall improved. 
Patient has brighter affect, more stabilized mood, and feels 
hopeful. No longer endorsing suicidal ideation and able to 
express appreciation that she did not follow through with her 
plan and that her family/friends removed the razors from her 
room for when she is discharged. 
 

3. SUBSTANCE USE DISORDERS:
cannabis use disorder - patient was educated about detrimental 
effects of cannabis on her brain and behavior. Motivated to stop 
using. 

4. MEDICAL
#)N/A

5. PSYCHOSOCIAL
#) GROUPS/MILIEU: 
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. The patient was initially 
isolative, but eventually became more visible in the milie. She 
was pleasant and acted appropriately with staff and peers in the 
milieu with requiring seclusion or restraint.

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
 - mother - ___
The patient's family, specifically mother, was involved in the 
patient's treatment and discharge planning and was provided with 
the opportunity to discuss the patient's diagnosis and treatment 
with the primary team. The patient's family was supportive of 
the patient's treatment and aftercare plan. 

#) INTERVENTIONS
- Medications: LamoTRIgine 50 mg PO/NG QHS , Citalopram 20 mg 
PO/NG DAILY
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: ___ Student  Counseling, 
Therapy intake at ___ Counseling, IOP intake at ___ IOP, 
and PCP appointment
- ___ Interventions: encourage therapy ___
- Guardianships: N/A

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT & PROGNOSIS

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon self presentation 
with active suicidal ideation with
plan and steps taken to enact plan by purchasing straight razors 
to cut veins in shower.  Her static factors noted at that time 
include history of suicide attempts, history of abuse, chronic 
mental illness, family history of suicide attempt, history of 
___ behavior, history of substance abuse (marijuana), 
Caucasian race, age, marital status (single). The modifiable 
risk factors included suicidal ideation with intent/plan, 
impulsiveness, recklessness, poorly controlled mental illness, 
no established outpatient providers, hopelessness, lack of 
purpose, active ___ behaviors, feeling trapped, 
decreased ___, thought constriction, polarized thinking, 
limited coping skills. The modifiable risk factors were 
addressed during hospitalization via medication management, 
psychotherapeutic intervention, and aftercare coordination.  
Finally, the patient is being discharged with many protective 
risk factors, including female gender, no access to lethal 
weapons, pets, reality testing ability, ___ nature, 
___ viewpoint, sense of responsibility to family, no 
history of substance use disorder, and strong social supports. 
Overall, the patient is not at an acutely elevated risk of 
___ nor danger to others due to acutely decompensated 
psychiatric illness.

 
Medications on Admission:
None
 
Discharge Medications:
1.  Citalopram 20 mg PO DAILY 
RX *citalopram [Celexa] 20 mg 1 tablet(s) by mouth daily Disp 
#*14 Tablet Refills:*0 
2.  LamoTRIgine 50 mg PO QHS 
RX *lamotrigine [Lamictal] 25 mg 2 tablet(s) by mouth at bedtime 
Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
MDD recurrent, severe, no psychotic features, 
PTSD 
borderline personality traits

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___